US06525059B1
5-(N-METHYL-4-PIPERIDYL)-4-(4-PYRIDYL)-3-(3-CHLOROPHENYL)PYRAZOLE
By following the method of Example C-75 and substituting 5-(4-piperidyl)-4-(4-pyridyl)-3-(3-chlorophenyl)pyrazole hydrochloride (Example C-88), for 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride (Example C-74) the title compound was prepared: MS (M+H): 353 (base peak).

reactant | 5-(4-piperidyl)-4-(4-pyridyl)-3-(3-chlorophenyl)pyrazole hydrochloride | Cl.N1CCC(CC1)C1=C(C(=NN1)C1=CC(=CC=C1)Cl)C1=CC=NC=C1
reactant | 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride | Cl.N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1
product | 5-(N-METHYL-4-PIPERIDYL)-4-(4-PYRIDYL)-3-(3-CHLOROPHENYL)PYRAZOLE | CN1CCC(CC1)C1=C(C(=NN1)C1=CC(=CC=C1)Cl)C1=CC=NC=C1 | C20H21ClN4
